US05441971
5-[4-[2-[5-(1-Hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione (0.3 g) was dissolved in hydrogen chloride-ethanol (25%, 1 ml). The solution was stirred at room temperature for 30 minutes and precipitated crystals were filtered off. The crystals were recrystallized from ethanol to obtain 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione hydrochloride (0.21 g, yield: 62%) as colorless prisms, m.p. 212°-213° C.

reactant | 5-[4-[2-[5-(1-Hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione | 0.3 g | OC(C)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H20N2O4S
reactant | hydrogen chloride ethanol | 1 ml | Cl.C(C)O
product | 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione hydrochloride | 0.21 g, yield: 62% | Cl.OC(C)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | InChI=1S/C19H20N2O4S.ClH/c1-12(22)14-4-5-15(20-11-14)8-9-25-16-6-2-13(3-7-16)10-17-18(23)21-19(24)26-17;/h2-7,11-12,17,22H,8-10H2,1H3,(H,21,23,24);1H
